US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine in dimethylformamide and ethanol and 6-fluoro-3-piperidine-4-yl-benzo[d]isoxazole (Table No. 1, SM 8) in ethanol essentially as described above in Example 102. Purity by LC/MS=100%, [M+H]+=489.

reactant | (R)-3-(3-oxiranylmethoxy-phenyl)-isoxazolo[5,4-b]pyridine | O1[C@H](C1)COC=1C=C(C=CC1)C1=NOC2=NC=CC=C21 | C15H12N2O3
reactant | 6-fluoro-3-piperidine-4-yl-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-piperidin-1-yl]-3-(3-isoxazolo[5,4-b]pyridin-3-yl-phenoxy)-propan-2-ol | FC1=CC2=C(C(=NO2)C2CCN(CC2)C[C@H](COC2=CC(=CC=C2)C2=NOC3=NC=CC=C32)O)C=C1 | C27H25FN4O4
